US07087626B2
2-Pyridin-2-yl-3-quinolin-4-yl-pyrazolo[5,1-c]morpholine
To a solution of 2-(2-hydroxyethyl)-3-hydroxymethyl-5-pyridin-2-yl-4-quinoline-4-yl-pyrazole, (0.10 g, 0.29 mmol) in tetrahydrofuran (10 mL) cooled at 0° C. is added NaH (0.04 g, 50% in mineral oil). The mixture is stirred for 2 h at room temperature and methanesulfonyl chloride (0.065 g, 0.57 mmol) is added dropwise over 30 min. The reaction is quenched with water and extracted into ethyl acetate. The organic layer is washed with water, dried (sodium sulfate), filtered, and concentrated in vacuo. The residue is chromatographed on SiO2 (10% methanol/dichloromethane) to yield the title compound, 31 mg (33%), as a white solid.

reactant | 2-(2-hydroxyethyl)-3-hydroxymethyl-5-pyridin-2-yl-4-quinoline-4-yl-pyrazole | 0.29 mmol, 0.10 g | OCCN1N=C(C(=C1CO)C1=CC=NC2=CC=CC=C12)C1=NC=CC=C1 | C20H18N4O2
reactant | NaH | 0.04 g | [H-].[Na+]
reactant | methanesulfonyl chloride | 0.57 mmol, 0.065 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 2-Pyridin-2-yl-3-quinolin-4-yl-pyrazolo[5,1-c]morpholine | N1=C(C=CC=C1)C1=NN2C(COCC2)=C1C1=CC=NC2=CC=CC=C12 | C20H16N4O
